US09108965B2
Step A2a: Preparation of methyl 3,5-dichloro-α-cyano-benzeneacetic acid
A mixture of sodium methoxide (25% in methanol, 225.9 g, 1.045 mol) and toluene (996 mL) was boiled to remove the methanol/toluene azeotrope. Toluene was added as necessary in portions during the course of the distillation. When the head temperature reached 110° C. the distillation was continued for 20 min. The mixture was allowed to cool to room temperature and toluene was added so that the volume was the same as it was prior to distillation. Methanol (74 mL) and dimethylcarbonate (118.4 g, 1.31 mol) were added to the reaction mixture. The mixture was warmed to 50° C. and 3,5-dichlorophenylacetonitrile (148.2 g, 0.796 mol) in toluene (140 mL) was added over 3.5 h. The resulting mixture was allowed to cool to room temperature overnight, then warmed to 50° C. for a further 2 h. The mixture was allowed to cool to room temperature and acetic acid (80 g, 1.33 mol) was added drop-wise. Water (350 mL) was added to the reaction mixture and the organic phase separated and the solvent removed under reduced pressure. Crystallisation of the resulting residue from methanol (171 mL) gave the product as a white solid (148 g, 76%) melting at 97-99° C.

reactant | sodium methoxide | 1.045 mol, 225.9 g | C[O-].[Na+]
reactant | dimethylcarbonate | 1.31 mol, 118.4 g | COC(OC)=O | C3H6O3
reactant | 3,5-dichlorophenylacetonitrile | 0.796 mol, 148.2 g | ClC=1C=C(C=C(C1)Cl)CC#N | C8H5Cl2N
reactant | acetic acid | 1.33 mol, 80 g | C(C)(=O)O | C2H4O2
solvent | toluene | 140 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 996 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | 350 mL | O | H2O
solvent | Methanol | 74 mL | CO | CH4O
product | methyl 3,5-dichloro-α-cyano-benzeneacetic acid | 148 g, 76% | CC1=C(C=C(C=C1Cl)Cl)C(C(=O)O)C#N | C10H7Cl2NO2
